US05883102
(b) N-(2-Hydroxyphenyl)-4-(4-oxopiperidinocarbonyl)benzamide ethylene ketal
A solution of 4-(4-oxopiperidinocarbonyl)benzoic acid ethylene ketal (291 mg, 1 mmol) in DMF (3 ml) was treated with 1,1'-carbonyldiimidazole (162 mg, 1 mmol) and stirred for 30 min. 2-Aminophenol (109 mg, 1 mmol) was added and stirring continued for 22 h. The mixture was acidified with dilute HCl, extracted with ethyl acetate, washed with brine, dried over sodium sulphate and concentrated under vacuum. The residue was purified by flash column chromatography on silica, eluting with ethyl acetate, to furnish a clear glass, MS (+CI) 383 ([M+H]+).

reactant | 4-(4-oxopiperidinocarbonyl)benzoic acid ethylene ketal | 1 mmol, 291 mg | C1COC(C2=CC=C(C=C2)C(=O)N2CCC(CC2)=O)(O)O1 | C15H17NO5
reactant | 1,1'-carbonyldiimidazole | 1 mmol, 162 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Aminophenol | 1 mmol, 109 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | HCl | Cl | ClH
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-(2-Hydroxyphenyl)-4-(4-oxopiperidinocarbonyl)benzamide ethylene ketal | C1COC(C2=CC=C(C=C2)C(=O)N2CCC(CC2)=O)(NC2=C(C=CC=C2)O)O1 | C21H22N2O5
